**********************************************************
*** Library of Spice averaged switch models            ***
*** Supplement to the textbook                         ***
*** Fundamentals of Power Electronics                  ***
*** by R.W.Erickson and D. Maksimovic                  ***
*** Springer, 2001                                     ***
*** Version: 3/05/16                                   ***
*** Power Electronics Specialization                   ***
*** @2016 University of Colorado Boulder               ***
**********************************************************

**********************************************************
* MODEL: CCM1
* Application: two-switch PWM converters
* Limitations: ideal switches, CCM only, no transformer
**********************************************************
* Parameters: none
**********************************************************
* Nodes:
* 1: transistor positive (drain of an n-channel MOS)
* 2: transistor negative (source of an n-channel MOS)
* 3: diode cathode
* 4: diode anode
* 5: duty cycle control input
**********************************************************
.subckt CCM1 1  2  3  4  5
Et 1 2 value={(1-v(5))*v(3,4)/v(5)}
Gd 4 3 value={(1-v(5))*i(Et)/v(5)}
.ends
**********************************************************

**********************************************************
* MODEL: CCM2
* Application: two-switch PWM converters, includes
*              conduction losses due to Ron, VD, Rd
* Limitations: CCM only, no transformer
**********************************************************
* Parameters:
*      Ron=transistor on resistance
*      VD=diode forward voltage drop (constant)
*      RD=diode on resistance
**********************************************************
* Nodes:
* 1: transistor positive (drain of an n-channel MOS)
* 2: transistor negative (source of an n-channel MOS)
* 3: diode cathode
* 4: diode anode
* 5: duty cycle control input
**********************************************************
.subckt CCM2 1  2  3  4  5
+params: Ron=0 VD=0 RD=0
Er 1 1x value={i(Et)*(Ron+(1-v(5))*RD/v(5))/v(5)}
Et 1x 2 value={(1-v(5))*(v(3,4)+VD)/v(5)}
Gd 4 3 value={(1-v(5))*i(Et)/v(5)}
.ends
**********************************************************

**********************************************************
* MODEL: CCM3
* Application: two-switch PWM converters,
*              with (possibly) transformer
* Limitations: ideal switches, CCM only
**********************************************************
* Parameters:
*     n=transformer turns ratio 1:n (primary:secondary)
**********************************************************
* Nodes:
* 1: transistor positive (drain of an n-channel MOS)
* 2: transistor negative (source of an n-channel MOS)
* 3: diode cathode
* 4: diode anode
* 5: duty cycle control input
**********************************************************
.subckt CCM3 1  2  3  4  5
+params: n=1
Et 1 2 value={(1-v(5))*v(3,4)/v(5)/n}
Gd 4 3 value={(1-v(5))*i(Et)/v(5)/n}
.ends
**********************************************************


**********************************************************
* MODEL: CCM4
* Application: two-switch PWM converters, includes
*              conduction losses due to Ron, VD, RD
*              and (possibly) transformer
* Limitations: CCM only
**********************************************************
* Parameters:
*      Ron=transistor on resistance
*      VD=diode forward voltage drop (constant)
*      Rd=diode on resistance
*      n=transformer turns ratio 1:n (primary:secondary)
**********************************************************
* Nodes:
* 1: transistor positive (drain of an n-channel MOS)
* 2: transistor negative (source of an n-channel MOS)
* 3: diode cathode
* 4: diode anode
* 5: duty cycle control input
**********************************************************
.subckt CCM4 1  2  3  4  5
+params: Ron=0 VD=0 RD=0 n=1
Er 1 1x value={i(Et)*(Ron+(1-v(5))*RD/n/n/v(5))/v(5)}
Et 1x 2 value={(1-v(5))*(v(3,4)+VD)/v(5)/n}
Gd 4 3 value={(1-v(5))*i(Et)/v(5)/n}
.ends
**********************************************************

**********************************************************
* MODEL: CCM5
* Application: two-switch PWM converters, includes
*              conduction losses due to Ron, VD
*              and diode reverse recovery losses
* Limitations: CCM only, d'>tr/Ts, <i1> > Qr/Ts
**********************************************************
* Parameters:
*      Ron=transistor on resistance
*      VD=diode forward voltage drop (constant)
*      Qr=diode reverse recovery charge
*      tr=diode reverse recovery time
*      fs=switching frequency
**********************************************************
* Nodes:
* 1: transistor positive (drain of an n-channel MOS)
* 2: transistor negative (source of an n-channel MOS)
* 3: diode cathode
* 4: diode anode
* 5: duty cycle control input
**********************************************************
.subckt CCM5 1  2  3  4  5
+params: Ron=0 VD=0 Qr=0 tr=0 fs=1E5
Er 1 1x value={(i(Et)-fs*Qr)*Ron/(v(5)+fs*tr)}
Et 1x 2 value={(1-v(5))*(v(3,4)+VD)/v(5)}
Gd 4 3 value={(1-v(5)-fs*tr)*i(Et)/(v(5)+fs*tr)-fs*Qr/(v(5)+fs*tr)}
.ends
**********************************************************


**********************************************************
* MODEL: CCM-DCM1
* Application: two-switch PWM converters, CCM or DCM
* Limitations: ideal switches, no transformer
**********************************************************
* Parameters:
*      L=equivalent inductance for DCM
*      fs=switching frequency
**********************************************************
* Nodes:
* 1: transistor positive (drain of an n-channel MOS)
* 2: transistor negative (source of an n-channel MOS)
* 3: diode cathode
* 4: diode anode
* 5: duty cycle control input
**********************************************************
.subckt CCM-DCM1 1  2  3  4  5
+ params: L=100u fs=1E5
Et 1 2 value={(1-v(u))*v(3,4)/v(u)}
Gd 4 3 value={(1-v(u))*i(Et)/v(u)}
** This Ga expression prohibits negative-current solutions
Ga 0 a value={MAX(i(Et),0)}
** In case of convergence problems, the alternative Ga
** expression may work better:
* Ga 0 a value={i(Et)}
Va a b
Ra b 0 10k
Eu u 0 table {MAX(v(5),
+ v(5)*v(5)/(v(5)*v(5)+2*L*fs*i(Va)/v(3,4)))} (0 0) (1 1)
.ends
**********************************************************

**********************************************************
* MODEL: CCM-DCM2
* Application: two-switch PWM converters, CCM or DCM
*              with (possibly) transformer
* Limitations: ideal switches
**********************************************************
* Parameters:
*      L=equivalent inductance for DCM,
*        referred to primary
*      fs=switching frequency
*      n=transformer turns ratio 1:n (primary:secondary)
**********************************************************
* Nodes:
* 1: transistor positive (drain of an n-channel MOS)
* 2: transistor negative (source of an n-channel MOS)
* 3: diode cathode
* 4: diode anode
* 5: duty cycle control input
**********************************************************
.subckt CCM-DCM2 1  2  3  4  5
+params: L=100u fs=1E5 n=1
Et 1 2 value={(1-v(u))*v(3,4)/v(u)/n}
Gd 4 3 value={(1-v(u))*i(Et)/v(u)/n}
** This Ga expression prohibits negative-current solutions:
Ga 0 a value={MAX(i(Et),0)}
** In case of convergence problems, the alternative Ga
** expression may work better
* Ga 0 a value={i(Et)}
Va a b
Ra b 0 10K
Eu u 0 table {MAX(v(5),
+ v(5)*v(5)/(v(5)*v(5)+2*L*n*fs*i(Va)/v(3,4)))}(0 0) (1 1)
.ends
**********************************************************


**********************************************************
* MODEL: CPM
* Current-Programmed-Mode controller model.
* Computes duty ratio based on averaged inductor
* current, voltages applied to the inductor, and amplitude
* of the artificial ramp. The CPM controller model
* is valid for CCM and DCM operation of the power
* converter. All parameters and inputs are referred to
* the primary side.
*
* Limitation: does not include sampling effects
* or preditions of period-doubling instability
*
**********************************************************
* Parameters:
*     L=equivalent inductance, referred to primary
*     fs=switching frequency
*     Va=amplitude of the artificial ramp, Va=Rf*ma/fs
*     Rf=equivalent current-sense resistance
**********************************************************
* Nodes:
* vc: control input, vc=Rf*ic
* vs: sensed average inductor current vs=Rf*iL
* vm1: voltage across L in interval 1, slope m1=vm1/L
* vm2: (-) voltage across L in interval 2, slope m2=vm2/L
* d: duty cycle (output of the CPM controller)
**********************************************************
.subckt CPM vc vs vm1 vm2 d
+params: L=100e-6 fs=1e5 Va=0.5 Rf=1
*
* generate d2 for CCM or DCM, see Eq.(B.31)
Ed2 d2 0 table
+ {MIN(
+ L*fs*(v(vc)-Va*v(d))/Rf/(v(vm2)),
+ 1-v(d)
+ )} (0,0) (1,1)
*
* generate inductor current slopes, see Eqs.(B.24) and (B.26)
Em1 m1 0 value={Rf*v(vm1)/L/fs}
Em2 m2 0 value={Rf*v(vm2)/L/fs}
*
* compute duty cycle d, this is a replacement for Eq.(B.32)
Eduty d 0 table
+ {
+ 2*(v(vc)*(v(d)+v(d2))-v(vs))
+ /((v(m1)+v(m2))*v(d2)*(v(d)+v(d2)) + 2*Va*(v(d)+v(d2)))
+ } (0.01,0.01) (0.99,0.99)
*
.ends ; end of subcircuit CPM
**********************************************************

**********************************************************
* MODEL: CPM-CCM
* Current-Programmed-Mode controller model.
* Computes duty ratio based on averaged inductor
* current, voltages applied to the inductor, and amplitude
* of the artificial ramp. This CPM controller model
* is valid only for CCM  operation of the power
* converter. All parameters and inputs are referred to
* the primary side.
*
* Limitation: does not include sampling effects
* or preditions of period-doubling instability
*
**********************************************************
* Parameters:
*     L=equivalent inductance, referred to primary
*     fs=switching frequency
*     Va=amplitude of the artificial ramp, Va=Rf*ma/fs
*     Rf=equivalent current-sense resistance
**********************************************************
* Nodes:
* vc: control input, vc=Rf*ic
* vs: sensed average inductor current vs=Rf*iL
* vm1: voltage across L in interval 1, slope m1=vm1/L
* vm2: (-) voltage across L in interval 2, slope m2=vm2/L
* d: duty cycle (output of the CPM controller)
**********************************************************
.subckt CPM-CCM vc vs vm1 vm2 d
+params: L=100e-6 fs=1e5 Va=0.5 Rf=1
*
* generate inductor current slopes, see Eqs.(B.24) and (B.26)
Em1 m1 0 value={Rf*v(vm1)/L/fs}
Em2 m2 0 value={Rf*v(vm2)/L/fs}
*
* compute duty cycle d, this is a replacement for Eq.(B.32)
* and it is valid only for CCM, d2 = 1-d
Eduty d 0 table
+ {
+ 2*(v(vc)-v(vs))
+ /((v(m1)+v(m2))*(1-v(d)) + 2*Va)
+ } (0.01,0.01) (0.99,0.99)
*
.ends ; end of subcircuit CPM
**********************************************************

**********************************************************
* MODEL: transformer
* Application: transformer model suitable for averaged
*              circuit models
* Limitations: no losses, no leakages, two windings
**********************************************************
* Parameters:
*      Lm=primary (magnetizing) inductance
*      n=transformer turns ratio 1:n (primary:secondary)
**********************************************************
* Nodes:
* 1: primary-dot
* 2: primary-undot
* 3: secondary-dot
* 4: secondary-undot
**********************************************************
.subckt transformer 1  2  3  4
+params: Lm=100u n=1
Lm 1 2 {Lm}
Gp 2 1 value={n*i(Es)}
Es 3 4 value={n*v(1,2)}
.ends
**********************************************************


**********************************************************
* MODEL: idealtran
* Application: ideal transformer
* Limitations: two windings
**********************************************************
* Parameters:
*      n=transformer turns ratio 1:n (primary:secondary)
**********************************************************
* Nodes:
* 1: primary-dot
* 2: primary-undot
* 3: secondary-dot
* 4: secondary-undot
**********************************************************
.subckt idealtran 1  2  3  4
+params: n=1
Gp 2 1 value={n*i(Es)}
Es 3 4 value={n*v(1,2)}
.ends
**********************************************************
